US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-carboxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (150 mg) is dissolved in N,N-dimethylformamide (4 ml) and thereto are added morpholine (0.03 ml) and 1-hydroxybenzotriazole (50 mg) at room temperature. 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride (70 mg) is added to the mixture under ice-cooling, triethylamine (0.04 ml) is added thereto dropwise, and the mixture is stirred at room temperature overnight. A saturated aqueous sodium hydrogen carbonate solution is added to the reaction solution and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane:ethyl acetate=4:1→1:1) to give (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-carbonyl) pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (142 mg). MS (m/z): 697 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-(5-carboxypyrimidin-2-yl)}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 150 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)O)CC | C28H27F6N5O5
reactant | morpholine | 0.03 ml | N1CCOCC1 | C4H9NO
reactant | 1-hydroxybenzotriazole | 50 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-Dimethylaminopropyl)-3-ethylcarbodiimide monohydrochloride | 70 mg | Cl.CN(CCCN=C=NCC)C
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
solvent | triethylamine | 0.04 ml | C(C)N(CC)CC | C6H15N
product | (2R*,4S*)-4-{[3,5-bis(trifluoromethyl)benzyl]-[5-(morpholin-4-carbonyl) pyrimidin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 142 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C(=N1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(=O)N1CCOCC1)CC | C32H34F6N6O5
